US05863917
A mixture of 5-chloro-4-ethyl-2-nitroaniline (supplied by the Sigma-Aldrich Library of Rare Chemicals, 2.62 g, 13.1 mmol), tin (II) chloride dihydrate (14.7 g, 65.3 mmol) and ethyl acetate (130 ml) was heated under reflux for 22h. The mixture was cooled and partitioned between 1M aqueous sodium hydroxide (500 ml) and ethyl acetate (500 ml). The aqueous layer was extracted with ethyl acetate (250 ml), and the combined organic solutions were washed with saturated aqueous sodium chloride (100 ml), dried (MgSO4) and concentrated under reduced pressure to give 1,2-diamino4-chloro-5-ethylbenzene (2.70 g, >100%) as a white solid which was used directly without further purification.

reactant | 5-chloro-4-ethyl-2-nitroaniline | ClC=1C(=CC(=C(N)C1)[N+](=O)[O-])CC | C8H9ClN2O2
reactant | tin (II) chloride dihydrate | 65.3 mmol, 14.7 g | O.O.[Sn](Cl)Cl
solvent | ethyl acetate | 130 ml | C(C)(=O)OCC | C4H8O2
product | 1,2-diamino4-chloro-5-ethylbenzene | 2.70 g, >100% | NC1=C(C=C(C(=C1)CC)Cl)N | C8H11ClN2
